US06331538B1
Using the General Method 6A, the reaction of 10% Pd/C (0.075 g) with 1-(4-fluorophenyl)-6-fluoro-3-benzyloxy-7-(3-t-butoxycarbonylamino-pyrrolidin-1-yl)-1H-quinazoline-2,4-dione (Example N-1, 0.225 g, 0.4 mmol) afforded 0.182 g of 1-(4-fluorophenyl)-6fluoro-3-hydroxy-7-(3-t-butoxycarbonylamino-pyrrolidin-1-yl)-1H-quinazoline-2,4-dione.

reactant | 1-(4-fluorophenyl)-6-fluoro-3-benzyloxy-7-(3-t-butoxycarbonylamino-pyrrolidin-1-yl)-1H-quinazoline-2,4-dione | 0.4 mmol, 0.225 g | FC1=CC=C(C=C1)N1C(N(C(C2=CC(=C(C=C12)N1CC(CC1)NC(=O)OC(C)(C)C)F)=O)OCC1=CC=CC=C1)=O | C30H30F2N4O5
catalyst | Pd/C | 0.075 g | [Pd] | Pd
product | 1-(4-fluorophenyl)-6fluoro-3-hydroxy-7-(3-t-butoxycarbonylamino-pyrrolidin-1-yl)-1H-quinazoline-2,4-dione | 0.182 g | FC1=CC=C(C=C1)N1C(N(C(C2=CC(=C(C=C12)N1CC(CC1)NC(=O)OC(C)(C)C)F)=O)O)=O | C23H24F2N4O5
